2130-05-28 06:05:00 Physician Resident Progress Note
Chief Complaint: respiratory failure, suspected hepatorenal syndrome
   24 Hour Events:
 PICC LINE - START [**2130-5-27**] 03:34 PM
 INVASIVE VENTILATION - START [**2130-5-27**] 05:14 PM
 BRONCHOSCOPY - At [**2130-5-27**] 05:17 PM
 ARTERIAL LINE - START [**2130-5-27**] 06:21 PM
   No further overnight events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2130-5-27**] 06:56 PM
   Piperacillin/Tazobactam (Zosyn) - [**2130-5-28**] 01:15 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2130-5-27**] 04:50 PM
   Atropine - [**2130-5-27**] 05:04 PM
   Heparin Sodium (Prophylaxis) - [**2130-5-27**] 09:30 PM
   Pantoprazole (Protonix) - [**2130-5-27**] 10:00 PM
   Fentanyl - [**2130-5-28**] 03:00 AM
   Dextrose 50% - [**2130-5-28**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-28**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.4
   HR: 68 (29 - 91) bpm
   BP: 99/50(65) {86/38(51) - 136/66(91)} mmHg
   RR: 18 (9 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 79 kg
   Height: 66 Inch
           Total In:
                                                                  1,000 mL
                                                                    661 mL
   PO:
           TF:
   IVF:
                                                                    802 mL
                                                                    156 mL
   Blood products:
                                                                    198 mL
                                                                    375 mL
   Total out:
                                                                    292 mL
                                                                    314 mL
   Urine:
                                                                     82 mL
                                                                     34 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                    708 mL
                                                                    347 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: >400
   PIP: 33 cmH2O
   Plateau: 26 cmH2O
   Compliance: 23.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.33/35/122/17/-6
   Ve: 8.2 L/min
   PaO2 / FiO2: 305
   Physical Examination
   General: sedated, intubated, not in distress
   HEENT: no scleral icterus; ETT and OGT in place
   Neck: supple
   Chest: decreased breath sounds over right lung field diffusely; right
   anterior chest tube draining serosanguinous fluid; median sternotomy
   incision without erythema or drainage
   CV: regular rate/rhythm, normal s1s2, no murmurs/rubs
   Abdomen: soft, nondistended, unable to palpable spleen tip/liver edge
   Extremities: 2+ edema to upper shins; 1+ DP pulses
   Skin: no rashes or jaundice
   Neuro: sedated, pupils 6 mm and reactive bilaterally; opens eyes
   minimally to voice
   Labs / Radiology
   89 K/uL
   8.1 g/dL
   53 mg/dL
   4.6 mg/dL
   17 mEq/L
   4.9 mEq/L
   85 mg/dL
   94 mEq/L
   126 mEq/L
   23.0 %
   12.3 K/uL
        [image002.jpg]
                             [**2130-5-24**]  06:44 AM
                             [**2130-5-24**]  02:52 PM
                             [**2130-5-27**]  03:48 PM
                             [**2130-5-27**]  08:44 PM
                             [**2130-5-27**]  10:31 PM
                             [**2130-5-27**]  11:05 PM
                             [**2130-5-27**]  11:34 PM
                             [**2130-5-28**]  12:02 AM
                             [**2130-5-28**]  04:17 AM
                             [**2130-5-28**]  04:35 AM
   WBC
   11.0
   12.7
   12.3
   Hct
   29.0
   27.4
   23.0
   Plt
   94
   66
   89
   Cr
   4.4
   4.2
   4.6
   TCO2
   25
   21
   21
   21
   19
   Glucose
   110
   138
   85
   53
   Other labs: PT / PTT / INR:16.6/42.1/1.5, ALT / AST:26/24, Alk Phos / T
   Bili:88/1.6, Amylase / Lipase:34/39, Differential-Neuts:84.0 %,
   Lymph:9.7 %, Mono:3.4 %, Eos:2.7 %, Fibrinogen:299 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:220 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:9.5 mg/dL
   Imaging: CT Chest ([**2130-5-27**]):
   Increase in amount of loculated right upper pleural effusion,
   associated with total collapse of lung. Chest tube drains only inferior
   portion of the chest, and a new one should be placed for the upper
   portion. Anterior mediastinal hematoma also increased in size. Interval
   improvement of opacities in left lung. Unchanged ascites.
   .
   CXR ([**2130-5-27**] post-intubation):
   Slightly improved aeration of right lung field with persistent apical
   and basilar pleural effusion.
   Microbiology: Tissue culture ([**2130-5-15**]): no growth
   BAL ([**2130-5-27**]): negative Gram stain; culture pending
   [**5-28**] Blood cultures x2 pending, urine culture pending
   ECG: ECG ([**2130-5-27**], 10pm):
   Sinus rhythm at 63 bpm, normal axis, normal intervals, diffusely low
   voltage in limb leads and precordial leads (precordial voltage on
   pre-op ECGs was significantly higher), Q wave in III (and ? aVF); no ST
   segment or T wave changes.
   Assessment and Plan
   45 year old woman with alcoholic cirrhosis now s/p anterior-approach
   vertebrectomy and spinal fusion for destructive T4 lesion with
   post-operative course complicated by persistent right-sided pleural
   effusion requiring pleurodesis x2, worsening oliguric renal failure,
   and today with acute respiratory failure during bronchoscopy.  Now with
   new hypotension requiring low-dose of vasopressor support.
   .
   Plan:
   ## Respiratory failure; seems to have been an acute event in the
   setting of bronchoscopy for mucous plugging; respiratory mechanics
   further impaired by large pleural effusion and persistent ascites.  In
   spite of this, however, she is actually oxygenating quite well.
   - wean sedation overnight with the goal of assessing for possible
   extubation in the morning
   - thoracics/IP input appreciated regarding chest tube and recent
   pleurodeses
   -thoracics posed idea of repeat bronchoscopy this AM, with concern for
   mucus plugging. MICU will consider further bronchoscopy.
   - completed course of vancomycin and pip/tazo for suspected VAP; f/u
   BAL results
   .
   ## Anion gap metabolic acidosis; renal function is certainly
   contributing:
   - check repeat electrolytes with lactate now; check blood cultures
   - renal following
   .
   ## Hypotension; may be due to sedation and positive pressure
   ventillation. Concern for sepsis in this setting as well.
   -f/u vanc level
   -continue zosyn broad gram - coverage
   - blood cultures now from PICC and peripheral stick
   - wean phenylephrine and propofol as tolerated
   - hold nadolol and hydralazine
   - TTE given anterior mediastinal hematoma and diffusely low voltage on
   ECG
   -infectious disease consulted. Follow up recs.
   .
   ## Acute renal failure/oliguria- ATN to hepatorenal
   - start sevelamer (though unlikely to have much effect when not getting
   nutrition) for hyperphosphatemia
   - discontinue acyclovir (per T-SICU team, this was initially started
   out of concern for herpetic labial lesions while on steroids)
   - continue octreotide for suspected hepatorenal syndrome. Hold
   midodrine while on pressors, albumin
   -follow up nephrology recs, especially re: dialysis
   .
   ## T4 mass/lesion
   - goal platelets >70k per neurosurgery given recent spinal surgery
   - dexamethasone (for cord compression) being tapered
   .
   ## Cirrhosis
   - continue lactulose and rifaximin
   - hold midodrine, give octreotide (as above) for suspected hepatorenal
   syndrome
   - holding nadolol
   -albumin 100 grams today
   -daily albumin
   -will need re paracentesis at some point, now especially if unable to
   wean from pressors.
   -f/u hepatology recs
   .
   ## ? UTI; started on empiric ciprofloxacin yesterday; urine culture
   negative, however
   - recheck UA and culture
   - continue Zosyn
   .
   # Anemia: potentially dilutional but concern in the setting of acute
   sepsis. Patient also has thrombocytopenia, and elevated coags. Patient
   also has serosanguinous drainage via chest tube.
   -monitor [**Hospital1 **] HCT. Transfuse to keep HCT>24
   -speak with neurosurg re: post-surgical transfusion criteria
   -guiaiac stools
   .
   ## FEN: NPO for now; nutrition consult for tube feed recs if need for
   intubation persists
   ## DVT Prophylaxis: pneumoboots
   ## Access: right PICC, one PIV, right radial arterial line
   ## Code: full
   ## Communication: complicated social situation; per last SW note,
   mother planning to sign HCP forms; need to f/u with SW to see what the
   status of this is.  Daughter [**Telephone/Fax (1) 6254**] [**Doctor First Name **].
   ## Dispo: pending resolution of respiratory failure, acidosis, renal
   failure; critically ill
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2130-5-27**] 03:34 PM
   20 Gauge - [**2130-5-27**] 03:35 PM
   Arterial Line - [**2130-5-27**] 06:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-05-29 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2130-5-28**] 05:45 PM
   -Started midodrine, 7.5mg TID as per renal and liver recs.  Octreotide
   already begun.
   - Thoracic recs to do bronch, done with results ---
   - Nsurg in note suggest to wean pt. from vent as tolerated
   - Left a message with her sister's daughter asking the sister [**Name (NI) 225**] to
   come in)
   - AM vanco level elevated at 27.9, held today's dose of vancomycin,
   will continue to dose by level
   - AM cortisol level low at 1.8, begun IV solumedrol 60mg Q8H
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2130-5-27**] 06:56 PM
   Piperacillin/Tazobactam (Zosyn) - [**2130-5-29**] 02:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2130-5-29**] 06:45 AM
   Midazolam (Versed) - [**2130-5-29**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-29**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 65 (61 - 80) bpm
   BP: 126/59(80) {84/37(50) - 152/75(105)} mmHg
   RR: 18 (9 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 79 kg
   Height: 66 Inch
           Total In:
                                                                  1,774 mL
                                                                    594 mL
   PO:
           TF:
                                                                    170 mL
                                                                    188 mL
   IVF:
                                                                    569 mL
                                                                    176 mL
   Blood products:
                                                                    425 mL
                                                                     50 mL
   Total out:
                                                                  1,326 mL
                                                                    468 mL
   Urine:
                                                                    266 mL
                                                                    178 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                    448 mL
                                                                    126 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 212 (138 - 423) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 81
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.28/36/105/16/-8
   Ve: 9.2 L/min
   PaO2 / FiO2: 263
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   116 K/uL
   9.7 g/dL
   180 mg/dL
   5.2 mg/dL
   16 mEq/L
   5.6 mEq/L
   92 mg/dL
   92 mEq/L
   127 mEq/L
   28.2 %
   18.0 K/uL
        [image002.jpg]
                             [**2130-5-27**]  11:34 PM
                             [**2130-5-28**]  12:02 AM
                             [**2130-5-28**]  04:17 AM
                             [**2130-5-28**]  04:35 AM
                             [**2130-5-28**]  06:21 AM
                             [**2130-5-28**]  12:16 PM
                             [**2130-5-28**]  04:37 PM
                             [**2130-5-28**]  04:45 PM
                             [**2130-5-29**]  01:16 AM
                             [**2130-5-29**]  01:51 AM
   WBC
   12.3
   8.5
   20.1
   18.0
   Hct
   23.0
   24.4
   29.4
   28.2
   Plt
   89
   69
   123
   116
   Cr
   4.6
   4.9
   5.2
   TCO2
   21
   19
   23
   21
   18
   Glucose
   53
   77
   100
   101
   180
   Other labs: PT / PTT / INR:16.8/35.8/1.5, ALT / AST:26/24, Alk Phos / T
   Bili:88/1.6, Amylase / Lipase:34/39, Differential-Neuts:84.0 %,
   Lymph:9.7 %, Mono:3.4 %, Eos:2.7 %, Fibrinogen:299 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:220 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:10.3 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 643**] is a 45 year old woman with CPC 2 EtOH cirrhosis c/b
   ascites, encephalopathy, and varices now s/p anterior-approach
   vertebrectomy and spinal fusion for destructive T4 lesion with
   post-operative course complicated by persistent right-sided pleural
   effusion requiring pleurodesis x2, worsening oliguric renal failure,
   acute respiratory failure, and hypotension requiring low-dose levophed.
   .
   # Respiratory failure: Given right lobar collapse, likely secondary to
   mucus plugging. CXR this AM demonstrates improved aeration s/p
   bronchoscopy. Respiratory mechanics are also impared given persistent
   right sided effusion and ascties, although ABG overnight (7.28/36/105)
   demonstrates adequate oxygenation on FiO2 40%.
   -  RSBI this AM <100, consider PS trial and extubation if tolerates.
   - Thoracics/IP input appreciated regarding chest tube and recent
   pleurodeses
   - F/u sputum and BAL culture data.
   .
   # Anion gap metabolic acidosis: Likely secondary to ARF 2/2 HRS with
   most recent lactate <2.
   - Follow-up renal and liver recs
   .
   # Hypotension: Likely multifactorial with contributing etiologies
   including sedation, positive pressure ventilation, and adrenal
   insufficiency. Unlikely to be sepsis given broad specturm antibiotics
   since [**5-20**].
   - Continue IV solumedrol 60mg Q8H
   - Wean sedation
   - PS trial as above
   - Wean pressors as tolerated.
   - Hold nadolol and hydralazine.
   - TTE given anterior mediastinal hematoma and diffusely low voltage on
   ECG.
   .
   # HAP: Pip/tazo and vanco started on [**5-20**].
   - Hold antimicrobial therapy.
   - Follow-up ID recs if any
   .
   ## Acute renal failure/oliguria: Likely secondary to HRS.
   - Continue (though unlikely to have much effect when not getting
   nutrition) for hyperphosphatemia
   - Continue octreotide for suspected hepatorenal syndrome. Hold
   midodrine while on pressors
   - Continue albumin 12.5grams [**Hospital1 **]
   - Follow up nephrology and liver recs.
   - Trend creatinine, if renal function continues to worsen, will likely
   require family meeting as HD unlikely to help in HRS.
   .
   # T4 mass/lesion
   - goal platelets >70k per neurosurgery given recent spinal surgery
   - dexamethasone (for cord compression) being tapered
   .
   # Cirrhosis
   - continue lactulose and rifaximin
   - hold midodrine, give octreotide (as above) for suspected hepatorenal
   syndrome
   - holding nadolol
   - Albumin 100 grams today
   - Daily albumin
   - Will need re paracentesis at some point, now especially if unable to
   wean from pressors.
   - F/u hepatology recs
   .
   # ? UTI: UA with pyuria (WBC>200) yesterday. UCx pending, UCx ([**4-25**])
   negative with pyuria then as well.  Unlikely to be UTI given prolonged
   course of pip/tazo.
   - Hold antimicrobials.
   - F/u UCx
   .
   # Anemia: potentially dilutional but concern in the setting of acute
   sepsis. Patient also has thrombocytopenia, and elevated coags. Patient
   also has serosanguinous drainage via chest tube.
   -monitor [**Hospital1 **] HCT. Transfuse to keep HCT>24
   -speak with neurosurg re: post-surgical transfusion criteria
   -guiaiac stools
   .
   # FEN: NPO for now; nutrition consult for tube feed recs if need for
   intubation persists
   .
   # DVT Prophylaxis: pneumoboots
   .
   # Access: right PICC, one PIV, right radial arterial line
   .
   # Code: full
   .
   # Communication: complicated social situation; per last SW note, mother
   planning to sign HCP forms; need to f/u with SW to see what the status
   of this is.  Daughter [**Telephone/Fax (1) 6254**] [**Doctor First Name **].
   .
   # Dispo: pending resolution of respiratory failure, acidosis, renal
   failure; critically ill
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2130-5-28**] 12:30 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2130-5-27**] 03:34 PM
   Arterial Line - [**2130-5-27**] 06:21 PM
   20 Gauge - [**2130-5-28**] 08:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-05-30 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Failed SBT (pH 7.31/35 -> 7.20/45)
   - aluminum hydroxide x  3 days per renal
   - family meeting scheduled for tomorrow
   - TTE - LVEF >55%, no valvular pathology or pericardial effusion.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2130-5-27**] 06:56 PM
   Piperacillin/Tazobactam (Zosyn) - [**2130-5-30**] 02:04 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2130-5-29**] 09:30 AM
   Fentanyl - [**2130-5-29**] 11:07 PM
   Pantoprazole (Protonix) - [**2130-5-29**] 11:11 PM
   Heparin Sodium (Prophylaxis) - [**2130-5-30**] 05:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-30**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (96.9
   HR: 57 (48 - 71) bpm
   BP: 110/49(70) {99/49(64) - 130/63(87)} mmHg
   RR: 21 (9 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 80 kg (admission): 79 kg
   Height: 66 Inch
           Total In:
                                                                  1,604 mL
                                                                    551 mL
   PO:
           TF:
                                                                    683 mL
                                                                    203 mL
   IVF:
                                                                    472 mL
                                                                    148 mL
   Blood products:
                                                                    100 mL
                                                                     50 mL
   Total out:
                                                                  1,063 mL
                                                                    525 mL
   Urine:
                                                                    393 mL
                                                                     70 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    541 mL
                                                                     26 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 584 (584 - 584) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.33/32/162/16/-7
   Ve: 12.1 L/min
   PaO2 / FiO2: 405
   Physical Examination
   General: sedated, intubated, NAD
   HEENT: no scleral icterus; ETT and OGT in place
   Neck: supple
   Chest: Decreased breath sounds over right lung field diffusely; right
   anterior chest tube draining serosanguinous fluid; median sternotomy
   incision without erythema or drainage
   CV: regular rate/rhythm, normal s1s2, no murmurs/rubs
   Abdomen: Distended
   Extremities: 2+ edema to upper shins; 1+ DP pulses
   Skin: no rashes or jaundice
   Neuro: sedated, pupils 6 mm and reactive bilaterally, no asterixis
   Labs / Radiology
   68 K/uL
   8.6 g/dL
   176 mg/dL
   6.2 mg/dL
   16 mEq/L
   4.6 mEq/L
   108 mg/dL
   95 mEq/L
   130 mEq/L
   24.7 %
   6.2 K/uL
        [image002.jpg]
                             [**2130-5-29**]  01:16 AM
                             [**2130-5-29**]  01:51 AM
                             [**2130-5-29**]  08:04 AM
                             [**2130-5-29**]  10:58 AM
                             [**2130-5-29**]  01:15 PM
                             [**2130-5-29**]  04:45 PM
                             [**2130-5-29**]  04:55 PM
                             [**2130-5-29**]  11:00 PM
                             [**2130-5-30**]  03:08 AM
                             [**2130-5-30**]  03:41 AM
   WBC
   18.0
   6.2
   Hct
   28.2
   24.7
   Plt
   116
   68
   Cr
   5.2
   5.8
   6.2
   TCO2
   18
   18
   18
   16
   16
   18
   Glucose
   180
   261
   184
   244
   268
   176
   Other labs: PT / PTT / INR:17.0/35.4/1.5, ALT / AST:22/20, Alk Phos / T
   Bili:109/1.0, Amylase / Lipase:34/39, Differential-Neuts:84.0 %,
   Lymph:9.7 %, Mono:3.4 %, Eos:2.7 %, Fibrinogen:299 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:209 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:11.2 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 643**] is a 45 year old woman with CPC 2 EtOH cirrhosis c/b
   ascites, encephalopathy, and varices now s/p anterior-approach
   vertebrectomy and spinal fusion for destructive T4 lesion with
   post-operative course complicated by persistent right-sided pleural
   effusion requiring pleurodesis x2, worsening oliguric renal failure,
   acute respiratory failure, and hypotension requiring low-dose levophed.
   .
   # Respiratory failure: Patient failed SBT yesterday secondary to
   inadequate ventilation.  Secondary to right lobar collapse due to mucus
   plugging. CXR this AM demonstrates improved aeration s/p bronchoscopy.
   Respiratory mechanics are also impaired given persistent right sided
   effusion and ascites.  ABG 7.33/32/162 overnight.  RSBI 32 this AM.
   - PS trial today. Patient will be difficult to extubated successfully
   given ascites, effusion, and metabolic acidosis [**2-20**] renal failure.
   - f/u culture data
   .
   # Anion gap metabolic acidosis: Likely secondary to ARF 2/2 HRS with
   most recent lactate <2.  Patient continues to be oliguric with rising
   creatinine and BUN. Potassium stable on lactulose.  Given the acute
   change in renal function, this is likely type 1 HRS suggesting that the
   patient would not benefit from bridging with HD/CVVH.
   - Follow-up renal and liver recs
   - Trend creatinine, lytes.
   .
   # Hypotension: Patient >24 hours off pressors.  Likely multifactorial
   with contributing etiologies including sedation, positive pressure
   ventilation, and adrenal insufficiency. Unlikely to be sepsis given
   broad specturm antibiotics since [**5-20**].
   - Continue hydrocortisone 25 Q6H
   - Wean sedation as tolerated
   - PS trial as above
   - Hold nadolol and hydralazine.
   .
   # HAP: Pip/tazo and vanco started on [**5-20**].
   - BAL negative. Hold antimicrobials.
   - Follow-up ID recs if any
   .
   # Acute renal failure/oliguria: Likely secondary to HRS.
   - Aluminum hydroxide x  3 days per renal
   - Continue octreotide, midodrine.
   - Follow up nephrology and liver recs.  Check with liver regarding
   continuing SPA.
   - Trend creatinine and lytes. As above, if renal function continues to
   worsen, will likely require family meeting as HD unlikely to help in
   HRS.
   .
   # T4 mass/lesion
   - Follow-up neurosurg recs if any.
   .
   # Cirrhosis
   - Continue lactulose and rifaximin
   - Continue octreotide, midodrine.
   - Holding nadolol given hypotension overnight.
   - F/u hepatology recs if any.
   .
   # ? UTI: UA with pyuria (WBC>200) yesterday. UCx pending, UCx ([**4-25**])
   negative with pyuria then as well.  Less likely to be UTI given
   prolonged course of pip/tazo. Urine culture only positive for yeast.
   - Hold antimicrobials as above.
   .
   # Anemia: Hct trending down this AM to 24.7 from 28 yesterday.
   - Trend hct Q12H. Transfuse for hct<21 or if signs of end organ damage.
   - Guaiac stools
   .
   FEN: TF, replete as necessary.
   PPx: Heparin SQ
   Access: Right PICC, right radial arterial line
   Code: Full. Plan for family meeting today at 1:30 pm.
   Communication: complicated social situation; per last SW note, mother
   planning to sign HCP forms; need to f/u with SW to see what the status
   of this is.  Daughter [**Telephone/Fax (1) 6254**] [**Doctor First Name **].
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2130-5-30**] 04:42 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2130-5-27**] 03:34 PM
   Arterial Line - [**2130-5-27**] 06:21 PM
   20 Gauge - [**2130-5-29**] 04:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-05-31 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family mtg: continue with HD, renal wanted temp line, IR to place in
   am
   - PS trial --> acidosis--> AC
   - Liver: Cont alb
   - HCT 26
   - Hydrocort to 25
   - Dull chest pain last night that resolved, no ECG changes.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2130-5-30**] 09:52 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-5-30**] 08:22 PM
   Fentanyl - [**2130-5-30**] 11:39 PM
   Heparin Sodium (Prophylaxis) - [**2130-5-31**] 05:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-31**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 68 (47 - 72) bpm
   BP: 140/73(99) {115/57(78) - 151/80(109)} mmHg
   RR: 24 (10 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 79 kg
   Height: 66 Inch
           Total In:
                                                                  1,583 mL
                                                                    446 mL
   PO:
           TF:
                                                                    720 mL
                                                                    213 mL
   IVF:
                                                                    298 mL
                                                                     34 mL
   Blood products:
                                                                    100 mL
                                                                     50 mL
   Total out:
                                                                  1,724 mL
                                                                    179 mL
   Urine:
                                                                    264 mL
                                                                     79 mL
   NG:
   Stool:
   100 mL
   Drains:
   Balance:
                                                                   -141 mL
                                                                    267 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 120 (120 - 120) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 19
   PIP: 26 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: 7.24/44/170/17/-8
   Ve: 9 L/min
   PaO2 / FiO2: 425
   Physical Examination
   General: sedated, intubated, NAD
   HEENT: no scleral icterus; ETT and OGT in place
   Neck: supple
   Chest: Decreased breath sounds over right lung field diffusely; right
   anterior chest tube draining serosanguinous fluid; median sternotomy
   incision without erythema or drainage
   CV: Normal s1s2, no m/r/g
   Abdomen: Distended
   Extremities: 2+ edema; 1+ DP pulses
   Skin: no rashes or jaundice
   Neuro: sedated, no asterixis
   Labs / Radiology
   77 K/uL
   8.0 g/dL
   152 mg/dL
   6.8 mg/dL
   17 mEq/L
   4.6 mEq/L
   118 mg/dL
   95 mEq/L
   132 mEq/L
   23.2 %
   10.1 K/uL
        [image002.jpg]
                             [**2130-5-29**]  04:45 PM
                             [**2130-5-29**]  04:55 PM
                             [**2130-5-29**]  11:00 PM
                             [**2130-5-30**]  03:08 AM
                             [**2130-5-30**]  03:41 AM
                             [**2130-5-30**]  03:30 PM
                             [**2130-5-30**]  03:37 PM
                             [**2130-5-30**]  08:00 PM
                             [**2130-5-30**]  10:46 PM
                             [**2130-5-31**]  02:10 AM
   WBC
   6.2
   10.1
   Hct
   24.7
   26.7
   23.2
   Plt
   68
   77
   Cr
   5.8
   6.2
   6.4
   6.8
   TCO2
   16
   18
   20
   20
   Glucose
   244
   268
   176
   177
   179
   152
   Other labs: PT / PTT / INR:17.0/35.4/1.5, ALT / AST:22/20, Alk Phos / T
   Bili:109/1.0, Amylase / Lipase:34/39, Differential-Neuts:84.0 %,
   Lymph:9.7 %, Mono:3.4 %, Eos:2.7 %, Fibrinogen:299 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:3.1 g/dL, LDH:209 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:12.0 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 643**] is a 45 year old woman with CPC 2 EtOH cirrhosis c/b
   ascites, encephalopathy, and varices now s/p anterior-approach
   vertebrectomy and spinal fusion for destructive T4 lesion with
   post-operative course complicated by persistent right-sided pleural
   effusion requiring pleurodesis x2, worsening oliguric renal failure,
   acute respiratory failure, and transient hypotension requiring low-dose
   levophed.
   .
   # Respiratory failure: Patient on PSV yesterday until mid-afternoon
   with periods of apnea noted per RT. Respiratory mechanics continue to
   be impaired secondary to pleural effusion and refractory ascites in
   conjunction with anion-gap metabolic acidosis from ARF. ABG overnight
   7.24/44/170.
   - PSV trial today.
   - Plan for HD today, which may help in managing volume status aiding in
   eventual prolonged extubation.
   - Large volume paracentesis prior to procedure.
   .
   # Acid-base balance: Most recent ABG 7.24/44/170/18, suggesting AG
   metabolic acidosis and respiratory acidosis.
   - Repeat ABG today, adjust vent settings to reduce CO2
   - Trend creatinine and lytes.
   .
   # Hypotension: Patient >48 hours off pressors.  Likely multifactorial
   with contributing etiologies including sedation, positive pressure
   ventilation, and adrenal insufficiency. Unlikely to be sepsis given
   broad specturm antibiotics since [**5-20**].
   - Continue hydrocortisone 25 Q6H
   - Hold nadolol and hydralazine given fluid shifts from HD.
   .
   # HAP: Pip/tazo and vanco started on [**5-20**] and discontinued on [**5-30**].
   - Continue to hold antimicrobials.
   .
   # Acute renal failure/oliguria: Likely secondary to HRS.  Family
   meeting yesterday, patient and family wishes to purse HD.
   - IR guided temp HD line today, then HD
   - Aluminum hydroxide x3 days (day [**2-21**]) per renal
   - Continue octreotide, midodrine, discontinue SPA
   - Follow up nephrology and liver recs.
   - Trend creatinine and lytes.
   .
   # T4 mass/lesion
   - Follow-up neurosurg recs if any.
   .
   # Cirrhosis
   - Continue lactulose and rifaximin
   - Hold nadolol.
   - F/u hepatology recs if any.
   .
   # ? UTI: UA with pyuria (WBC>200) yesterday. UCx pending, UCx ([**4-25**])
   negative with pyuria then as well.  Less likely to be UTI given
   prolonged course of pip/tazo. Urine culture only positive for yeast.
   - Hold antimicrobials as above.
   .
   # Anemia: Hct trending down this AM to 23.7.
   - Trend hct Q12H. Transfuse for hct<21 or if signs of end organ damage.
   - Guaiac stools
   .
   FEN: TF, replete as necessary.
   PPx: Heparin SQ
   Access: Right PICC, right radial arterial line
   Code: Full. Sister [**Telephone/Fax (1) 6254**] [**Doctor First Name **].
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2130-5-30**] 09:09 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2130-5-27**] 03:34 PM
   Arterial Line - [**2130-5-27**] 06:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-06-01 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Temp HD line placed. HD done without hypotension.
   - Liver - continue midodrine and octreotide for now.
   - HD line hematoma, a-line bleeding, ET suction with blood. Hct 23.2 ->
   21.4. 1u PRBC transfused and 25 mg DDAVP.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2130-5-30**] 09:52 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2130-5-31**] 04:29 PM
   Pantoprazole (Protonix) - [**2130-6-1**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-6-1**] 06:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-6-1**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.5
C (97.7
   HR: 60 (51 - 73) bpm
   BP: 115/52(72) {107/47(67) - 148/73(103)} mmHg
   RR: 15 (0 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 7.4 kg (admission): 79 kg
   Height: 66 Inch
           Total In:
                                                                  1,400 mL
                                                                    759 mL
   PO:
           TF:
                                                                    720 mL
                                                                    207 mL
   IVF:
                                                                    150 mL
                                                                     58 mL
   Blood products:
                                                                     50 mL
                                                                    375 mL
   Total out:
                                                                    781 mL
                                                                      0 mL
   Urine:
                                                                    181 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    619 mL
                                                                    759 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: ///21/
   Ve: 8.2 L/min
   Physical Examination
   General: sedated, intubated, NAD
   HEENT: no scleral icterus; ETT and OGT in place
   Neck: supple
   Chest: Decreased breath sounds over right lung field diffusely; right
   anterior chest tube draining serosanguinous fluid; median sternotomy
   incision without erythema or drainage
   CV: Normal s1s2, no m/r/g
   Abdomen: Distended
   Extremities: 2+ edema; 1+ DP pulses
   Skin: no rashes or jaundice
   Neuro: sedated, no asterixis
   Labs / Radiology
   114 K/uL
   7.5 g/dL
   212 mg/dL
   5.5 mg/dL
   21 mEq/L
   4.0 mEq/L
   87 mg/dL
   97 mEq/L
   135 mEq/L
   21.6 %
   14.8 K/uL
        [image002.jpg]
                             [**2130-5-29**]  11:00 PM
                             [**2130-5-30**]  03:08 AM
                             [**2130-5-30**]  03:41 AM
                             [**2130-5-30**]  03:30 PM
                             [**2130-5-30**]  03:37 PM
                             [**2130-5-30**]  08:00 PM
                             [**2130-5-30**]  10:46 PM
                             [**2130-5-31**]  02:10 AM
                             [**2130-5-31**]  07:21 PM
                             [**2130-6-1**]  04:22 AM
   WBC
   6.2
   10.1
   14.8
   Hct
   24.7
   26.7
   23.2
   21.4
   21.6
   Plt
   68
   77
   114
   Cr
   6.2
   6.4
   6.8
   5.2
   5.5
   TCO2
   18
   20
   20
   Glucose
   [**Telephone/Fax (3) 6352**]79
   152
   150
   212
   Other labs: PT / PTT / INR:17.1/38.6/1.5, ALT / AST:22/20, Alk Phos / T
   Bili:109/1.0, Amylase / Lipase:34/39, Differential-Neuts:84.0 %,
   Lymph:9.7 %, Mono:3.4 %, Eos:2.7 %, Fibrinogen:299 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:3.1 g/dL, LDH:209 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:8.3 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 643**] is a 45 year old woman with CPC 2 EtOH cirrhosis c/b
   ascites, encephalopathy, and varices now s/p anterior-approach
   vertebrectomy and spinal fusion for destructive T4 lesion with
   post-operative course complicated by persistent right-sided pleural
   effusion requiring pleurodesis x2, worsening oliguric renal failure,
   acute respiratory failure, and transient hypotension requiring low-dose
   levophed.
   # Respiratory failure: Patient on PSV yesterday until mid-afternoon
   with periods of apnea noted per RT. Respiratory mechanics continue to
   be impaired secondary to pleural effusion and refractory ascites in
   conjunction with anion-gap metabolic acidosis from ARF. ABG overnight
   7.24/44/170.
   - PSV trial today.
   - Plan for HD today, which may help in managing volume status aiding in
   eventual prolonged extubation.
   - Large volume paracentesis prior to procedure.
   # Acid-base balance: Most recent ABG 7.24/44/170/18, suggesting AG
   metabolic acidosis and respiratory acidosis.
   - Repeat ABG today, adjust vent settings to reduce CO2
   - Trend creatinine and lytes.
   # Hypotension: Patient >48 hours off pressors.  Likely multifactorial
   with contributing etiologies including sedation, positive pressure
   ventilation, and adrenal insufficiency. Unlikely to be sepsis given
   broad specturm antibiotics since [**5-20**].
   - Continue hydrocortisone 25 Q6H
   - Hold nadolol and hydralazine given fluid shifts from HD.
   # HAP: Pip/tazo and vanco started on [**5-20**] and discontinued on [**5-30**].
   - Continue to hold antimicrobials.
   # Acute renal failure/oliguria: Likely secondary to HRS.  Family
   meeting yesterday, patient and family wishes to purse HD.
   - IR guided temp HD line today, then HD
   - Aluminum hydroxide x3 days (day [**2-21**]) per renal
   - Continue octreotide, midodrine, discontinue SPA
   - Follow up nephrology and liver recs.
   - Trend creatinine and lytes.
   # T4 mass/lesion
   - Follow-up neurosurg recs if any.
   # Cirrhosis
   - Continue lactulose and rifaximin
   - Hold nadolol.
   - F/u hepatology recs if any.
   # ? UTI: UA with pyuria (WBC>200) yesterday. UCx pending, UCx ([**4-25**])
   negative with pyuria then as well.  Less likely to be UTI given
   prolonged course of pip/tazo. Urine culture only positive for yeast.
   - Hold antimicrobials as above.
   # Anemia: Hct trending down this AM to 23.7.
   - Trend hct Q12H. Transfuse for hct<21 or if signs of end organ damage.
   - Guaiac stools
   FEN: TF, replete as necessary.
   PPx: Heparin SQ
   Access: Right PICC, right radial arterial line
   Code: Full. Sister [**Telephone/Fax (1) 6254**] [**Doctor First Name **].
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2130-6-1**] 04:23 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2130-5-27**] 03:34 PM
   Arterial Line - [**2130-5-27**] 06:21 PM
   Dialysis Catheter - [**2130-5-31**] 11:36 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-06-02 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2130-6-1**] 01:49 PM
 CHEST TUBE PLACED - At [**2130-6-1**] 10:15 PM
 BRONCHOSCOPY - At [**2130-6-1**] 11:00 PM
 OR SENT - At [**2130-6-2**] 01:00 AM
   to or with anesth, thoracis HO and respiratory therapy
 OR RECEIVED - At [**2130-6-2**] 04:30 AM
   returned from OR vent. , report received from anesth, reintubated with
   #8 ETT not verified, nor are CT placement, will ask for cxr for
   verification
 CHEST TUBE PLACED - At [**2130-6-2**] 04:32 AM
   3 ct in right chest to suction, serous output
   - HD completed, transfused two units pRBCs
   - Acutely became hypotensive, tachycardic with blood draining from
   chest tube site, given 2 u pRBCs, 1 u FFP, 1 u cryo, DDAVP
   - R chest tube placed
   - large volume blood output from chest tube
   - bronch by thoracics
   - to OR with thoracics, given additional blood products in OR, 2
   additional chest tubes placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2130-5-30**] 09:52 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-6-1**] 02:00 PM
   Insulin - Regular - [**2130-6-1**] 09:30 PM
   Fentanyl - [**2130-6-1**] 11:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-6-2**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35
C (95
   HR: 108 (67 - 138) bpm
   BP: 113/67(81) {77/42(55) - 158/80(112)} mmHg
   RR: 16 (0 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 7.4 kg (admission): 79 kg
   Height: 66 Inch
           Total In:
                                                                  4,803 mL
                                                                  7,238 mL
   PO:
           TF:
                                                                    628 mL
   IVF:
                                                                  1,831 mL
                                                                  1,667 mL
   Blood products:
                                                                  1,999 mL
                                                                  5,571 mL
   Total out:
                                                                  3,040 mL
                                                                  1,560 mL
   Urine:
                                                                     40 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,763 mL
                                                                  5,678 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 301 (301 - 755) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   SpO2: 100%
   ABG: 7.47/34/130/22/2
   Ve: 8 L/min
   PaO2 / FiO2: 325
   Physical Examination
   General: sedated, intubated, NAD
   HEENT: no scleral icterus; ETT in place
   Neck: supple
   Chest: Decreased breath sounds over right lung field diffusely, 3 CT in
   place
   CV: Normal s1s2, no m/r/g
   Abdomen: soft, distended
   Extremities: 2+ edema; 1+ DP pulses
   Skin: no rashes or jaundice
   Neuro: sedated, no asterixis
   Labs / Radiology
   120 K/uL
   7.5 g/dL
   86 mg/dL
   4.3 mg/dL
   22 mEq/L
   3.5 mEq/L
   59 mg/dL
   100 mEq/L
   137 mEq/L
   25
   14.8 K/uL
        [image002.jpg]
                             [**2130-6-1**]  08:11 PM
                             [**2130-6-1**]  08:32 PM
                             [**2130-6-1**]  11:45 PM
                             [**2130-6-1**]  11:57 PM
                             [**2130-6-2**]  01:39 AM
                             [**2130-6-2**]  01:40 AM
                             [**2130-6-2**]  02:35 AM
                             [**2130-6-2**]  02:42 AM
                             [**2130-6-2**]  03:23 AM
                             [**2130-6-2**]  06:41 AM
   Hct
   21.4
   20
   27
   25
   Plt
   101
   187
   120
   Cr
   4.3
   4.3
   TCO2
   25
   25
   27
   26
   26
   25
   Glucose
   265
   203
   132
   139
   108
   86
   Other labs: PT / PTT / INR:16.6/42.1/1.5, ALT / AST:22/20, Alk Phos / T
   Bili:109/1.7, Amylase / Lipase:34/39, Differential-Neuts:84.0 %,
   Lymph:9.7 %, Mono:3.4 %, Eos:2.7 %, Fibrinogen:123 mg/dL, Lactic
   Acid:2.5 mmol/L, Albumin:3.1 g/dL, LDH:207 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:6.8 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 643**] is a 45 year old woman with CPC 2 EtOH cirrhosis c/b
   ascites, encephalopathy, and varices now s/p anterior-approach
   vertebrectomy and spinal fusion for destructive T4 lesion with
   post-operative course complicated by persistent right-sided pleural
   effusion requiring pleurodesis x2, worsening oliguric renal failure,
   and acute respiratory failure.
    #Hemothorax: Patient became hypotensive and tachycardic overnight with
   bleeding from old chest tube sites. Concern for hemothorax given
   complete opacification of R lung on chest x-ray that did not resolve
   with bronch. Crit 21.4 from 20 after two units with dialysis. R chest
   tube placed with 1600 ccs blood returned. Given 2 u pRBCs, 1 u FFP, 1 u
   cryo, DDAVP, and IVF with continued bleeding. Bronchoscopy performed by
   thoracic surgery which demonstrated no mucus plugging. Patient take to
   the OR to evaluate for source of bleed. Received multiple blood
   products in OR, however definitive source not identified. Two
   additional chest tubes were placed prior to return to floor.
   - F/u CT output
   - F/u CXR
   - F/u thoracic recs
   - q6h crits
   - T&C for 4 units
   - F/u coags
   - Hold SQH
   # Respiratory failure: Currently on AC. Respiratory mechanics continue
   to be impaired secondary to pleural effusion and refractory ascites in
   conjunction with anion-gap metabolic acidosis from ARF. Tolerated SBT
   well yesterday.
   - ABGs and adjust vent accordingly.
   # Acute renal failure/oliguria: Likely secondary to HRS. Received
   dialysis [**6-1**].
   - Continue octreotide, midodrine, discontinue SPA
   - Sevelamer carbmate and calcium
   - Follow up nephrology and liver recs.
   - Trend creatinine and lytes.
   # Cirrhosis
   - Continue lactulose and rifaximin
   - Hold nadolol.
   - F/u hepatology recs if any.
   # Anemia: Like secondary to hemothorax
   - Monitor CXR for signs of reaccumulation
   - Trend hct Q6H. Transfuse for hct<21 or if signs of end organ damage.
   # HAP: s/p Pip/tazo and vanco started on [**5-20**] and discontinued on [**5-30**].
   - Continue to hold antimicrobials.
   # T4 mass/lesion
   - Follow-up neurosurg recs if any.
   # ? UTI: UA with pyuria (WBC>200) yesterday. UCx pending, UCx ([**4-25**])
   negative with pyuria then as well.  Less likely to be UTI given
   prolonged course of pip/tazo. Urine culture only positive for yeast.
   - Hold antimicrobials as above.
   FEN: TF, replete as necessary.
   PPx: pneumoboots
   Access: Right PICC, right radial arterial line, double lumen femoral
   line
   Code: Full. Sister [**Telephone/Fax (1) 6254**] [**Doctor First Name **].
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2130-5-27**] 03:34 PM
   Arterial Line - [**2130-5-27**] 06:21 PM
   Dialysis Catheter - [**2130-5-31**] 11:36 AM
   18 Gauge - [**2130-6-1**] 10:27 PM
   Groin line
   Prophylaxis:
   DVT: pneumoboots, holding SQH
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2130-06-03 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 2x prbc, 1x plt, 1x ddavp yesterday
   - Off propofol, increased fent/midaz
   - Repeat cxr without hemothorax
   - HD
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2130-6-3**] 02:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2130-6-2**] 07:07 AM
   Midazolam (Versed) - [**2130-6-2**] 01:11 PM
   Fentanyl - [**2130-6-2**] 01:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-6-3**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.3
C (97.3
   HR: 64 (64 - 114) bpm
   BP: 117/50(68) {91/35(48) - 150/64(87)} mmHg
   RR: 5 (5 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 7.4 kg (admission): 79 kg
   Height: 66 Inch
           Total In:
                                                                 10,185 mL
                                                                  1,049 mL
   PO:
           TF:
                                                                    174 mL
                                                                    139 mL
   IVF:
                                                                  3,224 mL
                                                                    147 mL
   Blood products:
                                                                  6,553 mL
                                                                    663 mL
   Total out:
                                                                  1,660 mL
                                                                    825 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,525 mL
                                                                    224 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 8.2 L/min
   Physical Examination
   General: Sedated, intubated, NAD
   HEENT: no scleral icterus; ETT in place
   Neck: supple
   Chest: Decreased breath sounds over right lung field diffusely, 3 CT in
   place
   CV: Normal s1s2, no m/r/g
   Abdomen: soft, distended
   Extremities: 2+ edema; 1+ DP pulses
   Skin: no rashes or jaundice
   Neuro: sedated, no asterixis
   Labs / Radiology
   66 K/uL
   9.8 g/dL
   86 mg/dL
   3.8 mg/dL
   23 mEq/L
   3.8 mEq/L
   54 mg/dL
   103 mEq/L
   141 mEq/L
   28.2 %
   10.4 K/uL
        [image002.jpg]
                             [**2130-6-2**]  01:39 AM
                             [**2130-6-2**]  01:40 AM
                             [**2130-6-2**]  02:35 AM
                             [**2130-6-2**]  02:42 AM
                             [**2130-6-2**]  03:23 AM
                             [**2130-6-2**]  06:11 AM
                             [**2130-6-2**]  06:41 AM
                             [**2130-6-2**]  11:38 AM
                             [**2130-6-3**]  12:00 AM
                             [**2130-6-3**]  03:11 AM
   WBC
   13.9
   15.3
   10.3
   10.4
   Hct
   20
   27
   25
   26.5
   22.5
   23.9
   28.2
   Plt
   187
   120
   70
   144
   83
   66
   Cr
   3.8
   TCO2
   27
   26
   26
   25
   Glucose
   132
   139
   108
   86
   86
   Other labs: PT / PTT / INR:16.3/40.2/1.5, ALT / AST:22/20, Alk Phos / T
   Bili:109/1.7, Amylase / Lipase:34/39, Differential-Neuts:81.7 %,
   Lymph:12.1 %, Mono:3.5 %, Eos:2.4 %, Fibrinogen:146 mg/dL, Lactic
   Acid:2.5 mmol/L, Albumin:3.1 g/dL, LDH:207 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:6.9 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 643**] is a 45 year old woman with CPC 2 EtOH cirrhosis c/b
   ascites, encephalopathy, and varices now s/p anterior-approach
   vertebrectomy and spinal fusion for destructive T4 lesion with
   post-operative course complicated by persistent right-sided pleural
   effusion requiring pleurodesis x2, worsening oliguric renal failure,
   and acute respiratory failure.
   #Hemothorax: Patient required 2 units PRBC this morning, 7 units
   yesterday for total of 15 units of PRBC since most recent hemothorax.
   He has also received 4 units FFP, 2 bags plts, 1 unit cryo, and novo7
   during this episode. Chest tubes x3 on right continue to put out 1550cc
   yesterday (700 overnight) serosanguinous. Uncertain etiology to
   continued hemothorax will likely comoponent of hepatothorax as well.
   - Trend CT x3 output
   - Recheck CXR this PM for reaccumulation
   - Q6H CBC and fibrinogen, transfuse for hct<25
   - Plt 144 -> 83 -> 66, transfuse 1 bag platelets.
   - Active T+S
   - Check ionized calcium levels and aggressively replete as necessary.
   .
   # Respiratory failure: Stable without increasing vent requirement.
   Given acute hemothorax, continue AC for now.
   - Trend ABGs
   - PSV this afternoon
   .
   # Adrenal insufficiency: Switch to hydrocortisone [**Hospital1 **] today.
   .
   # Acute renal failure/oliguria: Likely secondary to HRS type 1.
   Received dialysis [**6-1**] and [**6-2**]
   - Continue octreotide, midodrine
   - Sevelamer carbmate and calcium
   - Follow up nephrology and liver recs
   - Trend creatinine and lytes.
   .
   # Cirrhosis
   - Continue lactulose and rifaximin
   - Hold nadolol.
   - F/u hepatology recs
   .
   # HAP: s/p Pip/tazo and vanco started on [**5-20**] and discontinued on [**5-30**].
   - Continue to hold antimicrobials.
   .
   # T4 mass/lesion
   - Follow-up neurosurg recs if any.
   .
   # ? UTI: UA with pyuria (WBC>200) yesterday. UCx pending, UCx ([**4-25**])
   negative with pyuria then as well.  Less likely to be UTI given
   prolonged course of pip/tazo. Urine culture only positive for yeast.
   - Hold antimicrobials as above.
   .
   FEN: TF, replete as necessary.
   PPx: pneumoboots
   Access: Right PICC, right radial arterial line, femoral cordis.
   Discontinue cordis today.
   Code: DNR. Mother [**Name (NI) **]. Sister [**Telephone/Fax (1) 6254**] [**Doctor First Name **].
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2130-6-2**] 02:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2130-5-27**] 03:34 PM
   Arterial Line - [**2130-5-27**] 06:21 PM
   Dialysis Catheter - [**2130-5-31**] 11:36 AM
   18 Gauge - [**2130-6-1**] 10:27 PM
   Triple Introducer - [**2130-6-2**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition:

2130-06-04 08:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - HD done.
   - Self-extubated successfully
   - PM CXR
 possible increasing effusion on right.
   - Hct 27.6->24, transfused [**1-20**] unit PRBC before pt pulled out PIV with
   extravasation of remainder of unit.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2130-6-3**] 02:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2130-6-4**] 12:10 AM
   Fentanyl - [**2130-6-4**] 04:09 AM
   Midazolam (Versed) - [**2130-6-4**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-6-4**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.5
C (97.7
   HR: 79 (62 - 117) bpm
   BP: 111/98(105) {88/55(65) - 146/98(354)} mmHg
   RR: 13 (9 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 7.4 kg (admission): 79 kg
   Height: 66 Inch
           Total In:
                                                                  2,989 mL
                                                                    323 mL
   PO:
                                                                    150 mL
                                                                     60 mL
   TF:
                                                                    482 mL
   IVF:
                                                                    345 mL
                                                                     83 mL
   Blood products:
                                                                  1,702 mL
                                                                    180 mL
   Total out:
                                                                  5,670 mL
                                                                      0 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,681 mL
                                                                    323 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   SpO2: 99%
   ABG: 7.36/51/106/26/2
   Ve: 10.8 L/min
   PaO2 / FiO2: 177
   Physical Examination
   General: Somnolent,, NAD
   HEENT: no scleral icterus, neck supple without LAD.
   Chest: Decreased breath sounds over right lung field diffusely, 3 CT in
   place
   CV: Normal s1s2, no m/r/g
   Abdomen: soft, distended
   Extremities: 2+ edema; 1+ DP pulses
   Skin: no rashes or jaundice
   Neuro: Somnolent
   Labs / Radiology
   90 K/uL
   7.9 g/dL
   130 mg/dL
   3.8 mg/dL
   26 mEq/L
   3.5 mEq/L
   39 mg/dL
   101 mEq/L
   139 mEq/L
   22.5 %
   13.5 K/uL
        [image002.jpg]
                             [**2130-6-2**]  11:38 AM
                             [**2130-6-3**]  12:00 AM
                             [**2130-6-3**]  03:11 AM
                             [**2130-6-3**]  07:12 AM
                             [**2130-6-3**]  09:25 AM
                             [**2130-6-3**]  01:44 PM
                             [**2130-6-3**]  06:45 PM
                             [**2130-6-3**]  06:57 PM
                             [**2130-6-4**]  03:21 AM
                             [**2130-6-4**]  05:18 AM
   WBC
   15.3
   10.3
   10.4
   11.9
   15.2
   13.5
   Hct
   22.5
   23.9
   28.2
   27.6
   24.0
   22.5
   Plt
   144
   83
   66
   105
   104
   110
   90
   Cr
   4.4
   3.8
   TCO2
   20
   30
   30
   Glucose
   202
   130
   Other labs: PT / PTT / INR:16.3/33.2/1.5, ALT / AST:16/22, Alk Phos / T
   Bili:72/1.5, Amylase / Lipase:34/39, Differential-Neuts:81.7 %,
   Lymph:12.1 %, Mono:3.5 %, Eos:2.4 %, Fibrinogen:213 mg/dL, Lactic
   Acid:2.4 mmol/L, Albumin:2.6 g/dL, LDH:192 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.6 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 643**] is a 45 year old woman with CPC 2 EtOH cirrhosis c/b
   ascites, encephalopathy, and varices now s/p anterior-approach
   vertebrectomy and spinal fusion for destructive T4 lesion with
   post-operative course complicated by persistent right-sided pleural
   effusion requiring pleurodesis x2, worsening oliguric renal failure,
   and acute respiratory failure.
   # Hemothorax: Patient required 2 units PRBC yesterday.  Platelets and
   INR stable. Hct continues to trend down with possible reaccumulation on
   CXR.
   - Right sided CXR and cross table this AM per thoracics
   - Monitor CT output.
   - Transfuse 1 u prbc and 1 plt. Check CBC Q6H, transfuse for hct<25
   - Recheck CXR this PM for reaccumulation
   - Active T+S
   - Check ionized calcium levels and aggressively replete as necessary.
   .
   # Respiratory failure: Patient self extubated yesterday now with
   incresaing PCO2. Oxygenation stable on 2L nc.
   - Check ABG, if patient is retaining concerning for tiring.
   - Wean supplemental O2 as tolerated with goal SaO2>92%
   .
   # Adrenal insufficiency: Switched to hydrocortisone IV BID ([**6-3**]). Can
   consider switching to PO when tolerating diet and begin taper.
   .
   # Acute renal failure/oliguria: Secondary to HRS type 1. Received
   dialysis [**6-1**], [**6-2**], and [**6-3**]
   - Continue octreotide, midodrine
   - Sevelamer carbmate and calcium
   - Follow up nephrology re HD today given product volume.
   - Trend creatinine and lytes.
   .
   # Confusion: Patient more confused this morning in setting of ativan
   yesterday and continued sedation overnight.  [**Month (only) 8**] also be secondary to
   pCO2 retention.  If ABG ok and patient does not improve, will need to
   consider alternative etiologies including SBP.
   - ABG
   - Consider diagnostic paracetnesis.
   - Limit benzos and sedating meds as patient unlikely to be able to
   metabolize given liver and renal failure.
   .
   # Cirrhosis
   - Continue lactulose and rifaximin
   - Hold nadolol.
   - F/u hepatology recs
   .
   # HAP: s/p Pip/tazo and vanco started on [**5-20**] and discontinued on [**5-30**].
   - Continue to hold antimicrobials.
   .
   # T4 mass/lesion
   - Follow-up neurosurg recs if any.
   .
   # ? UTI: UA with pyuria (WBC>200) yesterday. UCx pending, UCx ([**4-25**])
   negative with pyuria then as well.  Less likely to be UTI given
   prolonged course of pip/tazo. Urine culture only positive for yeast.
   - Hold antimicrobials as above.
   .
   FEN: Renal clears - ADAT, replete as necessary.
   PPx: SCDs
   Access: Right PICC, right radial arterial line. Cordis d/c
   Code: DNR. Mother [**Name (NI) **]. Sister [**Telephone/Fax (1) 6254**] [**Doctor First Name **].
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2130-5-27**] 03:34 PM
   Arterial Line - [**2130-5-27**] 06:21 PM
   Dialysis Catheter - [**2130-5-31**] 11:36 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2130-06-05 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2130-6-4**] 11:48 AM
   - Thoracics pulled back post chest tube 4 cm
   - transfused 1 unit platelets + WinRho, 2 units PRBCs
   - Self-d/c'd arterial line
   - Per blood bank, gave [**Doctor Last Name **]-[**Doctor Last Name **] for Rh positive platelets.
   - Diet advanced to clears, then pureed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2130-6-3**] 02:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2130-6-5**] 04:22 AM
   Fentanyl - [**2130-6-5**] 04:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-6-5**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.4
   HR: 107 (57 - 110) bpm
   BP: 45/26(29) {45/26(29) - 149/85(97)} mmHg
   RR: 18 (9 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 7.4 kg (admission): 79 kg
   Height: 66 Inch
           Total In:
                                                                  1,680 mL
                                                                    378 mL
   PO:
                                                                    520 mL
                                                                     80 mL
   TF:
   IVF:
                                                                    241 mL
                                                                     72 mL
   Blood products:
                                                                    919 mL
                                                                    226 mL
   Total out:
                                                                  4,580 mL
                                                                    850 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,900 mL
                                                                   -472 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.40/44/106/23/2
   Physical Examination
   General: Somnolent,, NAD
   HEENT: no scleral icterus, neck supple without LAD.
   Chest: Decreased breath sounds over right lung field diffusely, 3 CT in
   place
   CV: Normal s1s2, no m/r/g
   Abdomen: soft, distended
   Extremities: 2+ edema; 1+ DP pulses
   Skin: no rashes or jaundice
   Neuro: Somnolent
   Labs / Radiology
   80 K/uL
   7.4 g/dL
   118 mg/dL
   4.2 mg/dL
   23 mEq/L
   3.8 mEq/L
   41 mg/dL
   103 mEq/L
   140 mEq/L
   20.7 %
   9.5 K/uL
        [image002.jpg]
                             [**2130-6-3**]  09:25 AM
                             [**2130-6-3**]  01:44 PM
                             [**2130-6-3**]  06:45 PM
                             [**2130-6-3**]  06:57 PM
                             [**2130-6-4**]  03:21 AM
                             [**2130-6-4**]  05:18 AM
                             [**2130-6-4**]  08:20 AM
                             [**2130-6-4**]  11:39 AM
                             [**2130-6-4**]  11:15 PM
                             [**2130-6-5**]  04:02 AM
   WBC
   11.9
   15.2
   13.5
   8.1
   7.8
   9.5
   Hct
   27.6
   24.0
   22.5
   18.4
   23.0
   20.7
   Plt
   105
   104
   110
   90
   70
   64
   80
   Cr
   3.8
   4.2
   TCO2
   30
   30
   28
   Glucose
   130
   118
   Other labs: PT / PTT / INR:16.8/31.8/1.5, ALT / AST:16/22, Alk Phos / T
   Bili:72/1.5, Amylase / Lipase:34/39, Differential-Neuts:81.7 %,
   Lymph:12.1 %, Mono:3.5 %, Eos:2.4 %, Fibrinogen:213 mg/dL, Lactic
   Acid:2.4 mmol/L, Albumin:2.6 g/dL, LDH:192 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 643**] is a 45 year old woman with CPC 2 EtOH cirrhosis c/b
   ascites, encephalopathy, and varices now s/p anterior-approach
   vertebrectomy and spinal fusion for destructive T4 lesion with
   post-operative course complicated by persistent right-sided pleural
   effusion requiring pleurodesis x2, worsening oliguric renal failure,
   and acute respiratory failure.
   # Hemothorax: Patient required 2 units PRBC yesterday.  Platelets and
   INR stable. Hct continues to trend down with possible reaccumulation on
   CXR.
   - Right sided CXR and cross table this AM per thoracics
   - Monitor CT output.
   - Transfuse 1 u prbc and 1 plt. Check CBC Q6H, transfuse for hct<25
   - Recheck CXR this PM for reaccumulation
   - Active T+S
   - Check ionized calcium levels and aggressively replete as necessary.
   .
   # Respiratory failure: Patient self extubated yesterday now with
   incresaing PCO2. Oxygenation stable on 2L nc.
   - Check ABG, if patient is retaining concerning for tiring.
   - Wean supplemental O2 as tolerated with goal SaO2>92%
   .
   # Adrenal insufficiency: Switched to hydrocortisone IV BID ([**6-3**]). Can
   consider switching to PO when tolerating diet and begin taper.
   .
   # Acute renal failure/oliguria: Secondary to HRS type 1. Received
   dialysis [**6-1**], [**6-2**], and [**6-3**]
   - Continue octreotide, midodrine
   - Sevelamer carbmate and calcium
   - Follow up nephrology re HD today given product volume.
   - Trend creatinine and lytes.
   .
   # Confusion: Patient more confused this morning in setting of ativan
   yesterday and continued sedation overnight.  [**Month (only) 8**] also be secondary to
   pCO2 retention.  If ABG ok and patient does not improve, will need to
   consider alternative etiologies including SBP.
   - ABG
   - Consider diagnostic paracetnesis.
   - Limit benzos and sedating meds as patient unlikely to be able to
   metabolize given liver and renal failure.
   .
   # Cirrhosis
   - Continue lactulose and rifaximin
   - Hold nadolol.
   - F/u hepatology recs
   .
   # HAP: s/p Pip/tazo and vanco started on [**5-20**] and discontinued on [**5-30**].
   - Continue to hold antimicrobials.
   .
   # T4 mass/lesion
   - Follow-up neurosurg recs if any.
   .
   # ? UTI: UA with pyuria (WBC>200) yesterday. UCx pending, UCx ([**4-25**])
   negative with pyuria then as well.  Less likely to be UTI given
   prolonged course of pip/tazo. Urine culture only positive for yeast.
   - Hold antimicrobials as above.
   .
   FEN: Renal clears - ADAT, replete as necessary.
   PPx: SCDs
   Access: Right PICC, right radial arterial line. Cordis d/c
   Code: DNR. Mother [**Name (NI) **]. Sister [**Telephone/Fax (1) 6254**] [**Doctor First Name **].
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2130-5-27**] 03:34 PM
   Dialysis Catheter - [**2130-5-31**] 11:36 AM
   20 Gauge - [**2130-6-5**] 06:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2130-06-06 08:33:00 Physician Resident Progress Note
Chief Complaint: Patient complains of whole body pain and is also very
   depressed and anxious. She is requesting to see a psychiatrist and has
   seen a psychiatrist in the past for anxiety and depression. She is very
   unhappy and wants to leave the hospital.
   24 Hour Events:
   Started Amicar for bleeding and received PRBCs. Per heme, goal Hct is
   30. Patient otherwise awake and alert, asking to leave AMA overnight,
   but was eventually amenable to staying.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2130-6-5**] 08:30 PM
   Pantoprazole (Protonix) - [**2130-6-5**] 10:21 PM
   Fentanyl - [**2130-6-6**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Flowsheet Data as of  [**2130-6-6**] 08:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.4
   HR: 99 (73 - 125) bpm
   BP: 125/88(93) {101/58(67) - 142/94(103)} mmHg
   RR: 15 (8 - 26) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 7.4 kg (admission): 79 kg
   Height: 66 Inch
           Total In:
                                                                  3,593 mL
                                                                    693 mL
   PO:
                                                                    980 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    400 mL
                                                                    283 mL
   Blood products:
                                                                  2,213 mL
                                                                    380 mL
   Total out:
                                                                  6,270 mL
                                                                    305 mL
   Urine:
                                                                     55 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,677 mL
                                                                    388 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: depressed
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   50 K/uL
   8.9 g/dL
   106 mg/dL
   3.2 mg/dL
   28 mEq/L
   3.4 mEq/L
   25 mg/dL
   104 mEq/L
   143 mEq/L
   25.2 %
   6.3 K/uL
        [image002.jpg]
                             [**2130-6-4**]  03:21 AM
                             [**2130-6-4**]  05:18 AM
                             [**2130-6-4**]  08:20 AM
                             [**2130-6-4**]  11:39 AM
                             [**2130-6-4**]  11:15 PM
                             [**2130-6-5**]  04:02 AM
                             [**2130-6-5**]  08:31 AM
                             [**2130-6-5**]  12:25 PM
                             [**2130-6-5**]  05:13 PM
                             [**2130-6-6**]  05:15 AM
   WBC
   13.5
   8.1
   7.8
   9.5
   8.1
   6.3
   Hct
   22.5
   18.4
   23.0
   20.7
   28.2
   23.4
   25.2
   Plt
   90
   70
   64
   80
   112
   75
   50
   Cr
   3.8
   4.2
   3.2
   TCO2
   30
   28
   Glucose
   130
   118
   106
   Other labs: PT / PTT / INR:16.2/29.8/1.4, ALT / AST:16/22, Alk Phos / T
   Bili:72/1.5, Amylase / Lipase:34/39, Differential-Neuts:81.7 %,
   Lymph:12.1 %, Mono:3.5 %, Eos:2.4 %, Fibrinogen:201 mg/dL, Lactic
   Acid:2.4 mmol/L, Albumin:2.6 g/dL, LDH:192 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 643**] is a 45 year old woman with CPC 2 EtOH cirrhosis c/b
   ascites, encephalopathy, and varices now s/p anterior-approach
   vertebrectomy and spinal fusion for destructive T4 lesion with
   post-operative course complicated by persistent right-sided pleural
   effusion requiring pleurodesis x2, worsening oliguric renal failure,
   and acute respiratory failure.
   # Hemothorax: Worsening right sided effusion and strikethrough on
   dressings. Multiple transfusions overnight. So far: 37x pRBC (last 3
   [**2130-6-4**]); 18x Plt (last [**6-4**]); 35x FFP (last [**6-4**]); 3x cryo (last
   [**6-3**]); 2x winrho (last [**6-4**]); 4x ddavp (last [**6-2**]); 1x a-fVII (last
   [**6-2**]). CT=850cc.
   -  monitor CXR, CT output, coags, fibrinogen
   -  heme c/s and redose afVII
   -  transfuse 2 units with dialysis today in order to stay on top of
   requirements
   -  amicar standing
   -  transfuse for HCT>30, check HCT [**Hospital1 **]
   -  transfuse 1 units platelets today
   -  discuss with thoracic surgery feasibility of a surgery
   -  Active T+S
   .
   # Respiratory failure: Doing well post self extubation.
   - continue to monitor
   .
   # Adrenal insufficiency: Continue hydrocortisone IV BID ([**6-3**]). Will
   decrease dose today.
   .
   # Acute renal failure/oliguria: HRS type 1.
   -          Continue octreotide, midodrine,  sevelamer calcium carbonate
   -           HD
   -          Follow up renal recs
   .
    # Cirrhosis
   - Continue lactulose and rifaximin
   -  Hold nadolol.
   -  F/u hepatology recs
   .
   # T4 mass/lesion
   - Follow-up neurosurg recs if any.
   .
   # Pain control
   - start 30mg PO ID oxycontin for long term pain control
   - IV morphine bolus prn for pain control
   .
   FEN: Renal clears - ADAT, replete as necessary.
   PPx: SCDs, ISS, PPI
   Access: Right PICC, right radial arterial line. Cordis d/c
   Code: DNR. Mother [**Name (NI) **]. Sister [**Telephone/Fax (1) 6254**] [**Doctor First Name **].
   Dispo: ICU level of care.

2130-06-07 07:09:00 Physician Resident Progress Note
Chief Complaint:
   Continues to c/o pain at chest tube sites
   24 Hour Events:
   - Increased aminocaproic acid
   - Decreased steroid
   - Transfused 3 units rbc and 2 units plt
   - Started long acting pain med
   - Tightened glucose control
   - Attending to touch base with thoracics attdg re: surgery
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2130-6-6**] 09:50 AM
   Pantoprazole (Protonix) - [**2130-6-6**] 10:15 PM
   Morphine Sulfate - [**2130-6-6**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-6-7**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 79 (58 - 99) bpm
   BP: 125/74(87) {100/52(64) - 169/96(108)} mmHg
   RR: 15 (9 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 7.4 kg (admission): 79 kg
   Height: 66 Inch
             Total In:
                                                                  3,306 mL
                                                                    931 mL
   PO:
                                                                    670 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    571 mL
   Blood products:
                                                                  1,696 mL
   Total out:
                                                                  4,800 mL
                                                                    148 mL
   Urine:
                                                                     45 mL
                                                                     18 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,494 mL
                                                                    783 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   82 K/uL
   10.1 g/dL
   46 mg/dL
   4.1 mg/dL
   24 mEq/L
   3.6 mEq/L
   31 mg/dL
   102 mEq/L
   139 mEq/L
   29.3 %
   7.9 K/uL
        [image002.jpg]
                             [**2130-6-4**]  11:39 AM
                             [**2130-6-4**]  11:15 PM
                             [**2130-6-5**]  04:02 AM
                             [**2130-6-5**]  08:31 AM
                             [**2130-6-5**]  12:25 PM
                             [**2130-6-5**]  05:13 PM
                             [**2130-6-6**]  05:15 AM
                             [**2130-6-6**]  08:37 PM
                             [**2130-6-7**]  01:15 AM
                             [**2130-6-7**]  04:18 AM
   WBC
   8.1
   7.8
   9.5
   8.1
   6.3
   6.2
   7.9
   Hct
   18.4
   23.0
   20.7
   28.2
   23.4
   25.2
   27.6
   29.3
   Plt
   70
   64
   80
   112
   75
   50
   57
   74
   82
   Cr
   4.2
   3.2
   3.7
   4.1
   Glucose
   118
   106
   166
   46
   Other labs: PT / PTT / INR:16.6/54.8/1.5, ALT / AST:16/22, Alk Phos / T
   Bili:72/1.5, Amylase / Lipase:34/39, Differential-Neuts:81.7 %,
   Lymph:12.1 %, Mono:3.5 %, Eos:2.4 %, Fibrinogen:149 mg/dL, Lactic
   Acid:2.4 mmol/L, Albumin:2.6 g/dL, LDH:192 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.5 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 643**] is a 45 year old woman with CPC 2 EtOH cirrhosis c/b
   ascites, encephalopathy, and varices now s/p anterior-approach
   vertebrectomy and spinal fusion for destructive T4 lesion with
   post-operative course complicated by persistent right-sided pleural
   effusion requiring pleurodesis x2, worsening oliguric renal failure,
   and respiratory failure.
   # Hemothorax: Patient required 3 units PRBC and 2 plt yesterday. 325 cc
   CT output yestserday.  So far: 40x pRBC (last 3 [**2130-6-6**]); 20x Plt (last
   [**6-6**]); 35x FFP (last [**6-4**]); 3x cryo (last [**6-3**]); 2x winrho (last [**6-4**]);
   4x ddavp (last [**6-2**]); 1x [**Last Name (un) **] 7 (last [**6-2**]). CT=605 cc yesterday.
   - Monitor CT output
   - Serial CBC Q8H, transfuse for hct<25
   - Active T+S
   - Check ionized calcium levels and aggressively replete as necessary
   - Appreciate heme recs - redosed amicar
   # Respiratory failure: Stable post self-extubation.
   - continue to monitor
   # Adrenal insufficiency: Hydrocort decreased yesterday to 12.5 [**Hospital1 **].
   - Continue hydrocort for today.  Convert to prednisone 10 mg daily
   tomorrow with slow taper.
   # Acute renal failure/oliguria: Secondary to HRS type 1.
   - Continue octreotide, midodrine, sevelamer calcium carbonate
   - Continue HD
   - Follow up renal recs
   # Cirrhosis
   - Continue lactulose and rifaximin
   -  Hold nadolol.
   -  F/u hepatology recs
   # Depression: Continue sertraline
   - Consult psychiatry
   # T4 mass/lesion
   - Follow-up neurosurg re interval imaging.
   # Pain control
   - start 30mg PO ID oxycontin for long term pain control
   - IV morphine bolus prn for pain control
   FEN: Renal, replete as necessary.
   PPx: SCDs, ISS, PPI
   Access: Right PICC.
   Code: DNR. Mother [**Name (NI) **]. Sister [**Telephone/Fax (1) 6254**] [**Doctor First Name **].
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2130-5-27**] 03:34 PM
   Dialysis Catheter - [**2130-5-31**] 11:36 AM
   20 Gauge - [**2130-6-5**] 06:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2130-06-08 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hct stable, continued aminocaproic acid
   - Spoke to patient, she expressed desire to be full code
   - Stool smelled funny [**Name8 (MD) 77**] RN so sent C diff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2130-6-8**] 02:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-6-8**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 83 (77 - 99) bpm
   BP: 124/68(81) {99/45(60) - 125/73(86)} mmHg
   RR: 22 (11 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 7.4 kg (admission): 79 kg
   Height: 66 Inch
             Total In:
                                                                  2,650 mL
                                                                    531 mL
   PO:
                                                                  1,110 mL
                                                                    160 mL
   TF:
   IVF:
                                                                  1,540 mL
                                                                    371 mL
   Blood products:
   Total out:
                                                                  3,712 mL
                                                                    905 mL
   Urine:
                                                                     42 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,062 mL
                                                                   -374 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   General Appearance: NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   53 K/uL
   8.9 g/dL
   612 mg/dL
   2.6 mg/dL
   24 mEq/L
   2.6 mEq/L
   14 mg/dL
   89 mEq/L
   121 mEq/L
   26.6 %
   6.8 K/uL
        [image002.jpg]
                             [**2130-6-5**]  08:31 AM
                             [**2130-6-5**]  12:25 PM
                             [**2130-6-5**]  05:13 PM
                             [**2130-6-6**]  05:15 AM
                             [**2130-6-6**]  08:37 PM
                             [**2130-6-7**]  01:15 AM
                             [**2130-6-7**]  04:18 AM
                             [**2130-6-7**]  02:26 PM
                             [**2130-6-7**]  08:50 PM
                             [**2130-6-8**]  03:08 AM
   WBC
   8.1
   6.3
   6.2
   7.9
   6.1
   9.1
   6.8
   Hct
   28.2
   23.4
   25.2
   27.6
   29.3
   27.8
   28.2
   26.6
   Plt
   112
   75
   50
   57
   74
   82
   70
   72
   53
   Cr
   3.2
   3.7
   4.1
   2.6
   Glucose
   106
   166
   46
   612
   Other labs: PT / PTT / INR:16.7/32.9/1.5, ALT / AST:16/22, Alk Phos / T
   Bili:72/1.5, Amylase / Lipase:34/39, Differential-Neuts:81.7 %,
   Lymph:12.1 %, Mono:3.5 %, Eos:2.4 %, Fibrinogen:149 mg/dL, Lactic
   Acid:2.4 mmol/L, Albumin:2.6 g/dL, LDH:192 IU/L, Ca++:6.9 mg/dL,
   Mg++:1.2 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 643**] is a 45 year old woman with CPC 2 EtOH cirrhosis c/b
   ascites, encephalopathy, and varices now s/p anterior-approach
   vertebrectomy and spinal fusion for destructive T4 lesion with
   post-operative course complicated by persistent right-sided pleural
   effusion requiring pleurodesis x2, worsening oliguric renal failure,
   and respiratory failure.
   # Hemothorax: CT output slowing down yesterday to 170 cc. Total
   transfusion requirement: 43x pRBC (last 3 [**2130-6-7**]); 21x Plt (last
   [**6-7**]); 37x FFP (last [**6-4**]); 3x cryo (last [**6-3**]); 2x winrho (last [**6-4**]);
   4x ddavp (last [**6-2**]); 1x [**Last Name (un) **] 7 (last [**6-2**]).  Hct slowly trending down
   to 26.6 from 29.3 yesterday post-transfusion.
   - Monitor CT output
   - Serial CBC Q12H, transfuse for hct<25
   - Active T+S
   - Check ionized calcium levels and aggressively replete as necessary
   - Follow-up heme-onc recs if any
   # Respiratory failure: Stable post self-extubation.
   - continue to monitor
   # Adrenal insufficiency: Convert to prednisone 10 mg daily today with
   slow taper.
   # Acute renal failure/oliguria: Secondary to HRS type 1.
   - Continue, sevelamer calcium carbonate. Hold octreotide. Plan to hold
   midodrine tomorrow.
   - Continue HD
   - Follow up renal recs
   # Cirrhosis
   - Continue lactulose and rifaximin
   - Hold nadolol.
   - F/u hepatology recs
   # Depression: Continue sertraline. Psychiatry consulted yesterday.
   - Follow-up psych recs.
   # T4 mass/lesion
   - Follow-up neurosurg re interval imaging.
   # Pain control
   - Continue 30mg PO ID oxycontin for long term pain control
   - IV morphine bolus prn for pain control
   FEN: Renal, replete as necessary.
   PPx: SCDs, ISS, PPI
   Access: Right PICC.
   Code: Full. Mother [**Name (NI) **]. Sister [**Telephone/Fax (1) 6254**] [**Doctor First Name **].
   Dispo: ICU level of care for now, although may be able to call out to
   floor if stable this evening.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2130-5-27**] 03:34 PM
   Dialysis Catheter - [**2130-5-31**] 11:36 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2130-06-09 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 643**] is a 45 year old woman with CPC 2 EtOH
   cirrhosis c/b ascites, encephalopathy, and varices now s/p
   anterior-approach vertebrectomy and spinal fusion for destructive T4
   lesion with post-operative course complicated by persistent right-sided
   pleural effusion requiring pleurodesis x2, worsening oliguric renal
   failure, and respiratory failure.
   24 Hour Events:
 EKG - At [**2130-6-9**] 04:44 AM
   Patient complained  of heavy sharp pain with some presuure radiating to
   her right hand. Informed Intern.
   dc'd octreotide
   changed to water seal; cxr unchanged
   changed to full code
   HCT stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2130-6-9**] 04:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-6-9**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36
C (96.8
   HR: 63 (60 - 85) bpm
   BP: 100/64(72) {94/54(64) - 143/105(116)} mmHg
   RR: 11 (11 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 7.4 kg (admission): 79 kg
   Height: 66 Inch
             Total In:
                                                                  2,240 mL
                                                                    522 mL
   PO:
                                                                    900 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  1,340 mL
                                                                    472 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                     20 mL
   Urine:
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,295 mL
                                                                    502 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: No(t) Dullness : ), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   45 K/uL
   9.4 g/dL
   126 mg/dL
   3.8 mg/dL
   22 mEq/L
   3.5 mEq/L
   19 mg/dL
   99 mEq/L
   132 mEq/L
   27.6 %
   6.2 K/uL
        [image002.jpg]
                             [**2130-6-6**]  05:15 AM
                             [**2130-6-6**]  08:37 PM
                             [**2130-6-7**]  01:15 AM
                             [**2130-6-7**]  04:18 AM
                             [**2130-6-7**]  02:26 PM
                             [**2130-6-7**]  08:50 PM
                             [**2130-6-8**]  03:08 AM
                             [**2130-6-8**]  06:30 AM
                             [**2130-6-8**]  04:08 PM
                             [**2130-6-9**]  03:17 AM
   WBC
   6.3
   6.2
   7.9
   6.1
   9.1
   6.8
   7.4
   7.2
   6.2
   Hct
   25.2
   27.6
   29.3
   27.8
   28.2
   26.6
   28.7
   29.2
   27.6
   Plt
   50
   57
   74
   82
   70
   72
   53
   61
   57
   45
   Cr
   3.2
   3.7
   4.1
   2.6
   3.0
   3.8
   Glucose
   106
   166
   46
   [**Telephone/Fax (3) 6601**]
   Other labs: PT / PTT / INR:16.0/32.3/1.4, ALT / AST:[**8-14**], Alk Phos / T
   Bili:105/1.3, Amylase / Lipase:34/39, Differential-Neuts:81.7 %,
   Lymph:12.1 %, Mono:3.5 %, Eos:2.4 %, Fibrinogen:144 mg/dL, Lactic
   Acid:2.4 mmol/L, Albumin:2.8 g/dL, LDH:192 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 643**] is a 45 year old woman with CPC 2 EtOH cirrhosis c/b
   ascites, encephalopathy, and varices now s/p anterior-approach
   vertebrectomy and spinal fusion for destructive T4 lesion with
   post-operative course complicated by persistent right-sided pleural
   effusion requiring pleurodesis x2, worsening oliguric renal failure,
   and respiratory failure.
   # Hemothorax: CT output slowing down yesterday to 170 cc. Total
   transfusion requirement: 43x pRBC (last 3 [**2130-6-7**]); 21x Plt (last
   [**6-7**]); 37x FFP (last [**6-4**]); 3x cryo (last [**6-3**]); 2x winrho (last [**6-4**]);
   4x ddavp (last [**6-2**]); 1x [**Last Name (un) **] 7 (last [**6-2**]).  Hct slowly trending down
   to 26.6 from 29.3 yesterday post-transfusion but now stable x 24 hours.
   - Monitor CT output
   - Serial CBC Q12H, transfuse for hct<25
   - Active T+S (expires [**2130-6-10**])
   - Check ionized calcium levels and aggressively replete as necessary
   - Follow-up heme-onc recs if any
   # Respiratory failure: Stable post self-extubation.
   - continue to monitor
   # Adrenal insufficiency: Continue prednisone 10 mg daily today with
   slow taper.
   # Acute renal failure/oliguria: Secondary to HRS type 1.
   - Continue, sevelamer calcium carbonate. Holding octreotide. Plan to
   hold midodrine tomorrow if BP remains stable.
   - Continue HD
   - Follow up renal recs
   # Cirrhosis
   - Continue lactulose and rifaximin
   - Hold nadolol.
   - F/u hepatology recs
   # Depression: Continue sertraline. Psychiatry consulted and appreciate
   reccs.
   - Follow-up psych recs.
   - Addiction services consult
   # T4 mass/lesion
   - Follow-up neurosurg re interval imaging.
   - will need PT/OT but neurosurgery should comment on whether she should
   wear a brace when sitting upright.
   # Pain control
   - Continue 30mg PO ID oxycontin for long term pain control
   - IV morphine bolus prn for pain control
   FEN: Renal, replete as necessary.
   PPx: SCDs, ISS, PPI
   Access: Right PICC.
   Code: Full. Mother [**Name (NI) **]. Sister [**Telephone/Fax (1) 6254**] [**Doctor First Name **].
   Dispo: [**Hospital Ward Name 383**] 10
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2130-5-27**] 03:34 PM
   Dialysis Catheter - [**2130-5-31**] 11:36 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: